US05504242
According to the same manner as described in Example 1 except for reacting N-ethoxycarbonylphthalimide with 1,12-dodecanediol under conditions shown in Table 19, ethyl N-{2-(12-hydroxydodecyloxycarbonyl)benzoyl)carbamate was obtained. Characteristics and identified structure of the resulting compound are shown in Table 9.

reactant | N-ethoxycarbonylphthalimide | C(C)OC(=O)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | 1,12-dodecanediol | C(CCCCCCCCCCCO)O | C12H26O2
product | ethyl N-{2-(12-hydroxydodecyloxycarbonyl)benzoyl)carbamate | OCCCCCCCCCCCCOC(=O)C1=C(C(=O)NC(OCC)=O)C=CC=C1 | C23H35NO6
